US04419443
1 g of 2,3-dimethylsuccinic acid (a mixture of D-, L-, and meso-isomers) was added to 10 ml of 28% aqueous ammonium solution. The mixture was heated and stirred at about 60° C. for 1 hour. After cooling, to the reaction mixture was added aqueous hydrochloric acid solution so as to neutralize, and then the mixture was extrated twice with 10 ml of ethyl acetate. The extract was concentrated to obtain 0.73 g of 2,3-dimethylsuccinimide (a mixture of D-, L, and meso-isomers).

reactant | 2,3-dimethylsuccinic acid | 1 g | CC(C(=O)O)C(C(=O)O)C | C6H10O4
reactant | ammonium | 10 ml | [NH4+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 2,3-dimethylsuccinimide | 0.73 g | CC1C(=O)NC(C1C)=O | C6H9NO2
